US08119685B2
Methyl 4-[[2-(dimethylamino)ethyl](methylsulfonyl)amino]benzoate
Methanesulfonyl chloride (0.105 ml, 1.350 mmol) was added to a stirred solution of triethylamine (0.282 ml, 2.024 mmol) and methyl 4-{[2-(dimethylamino)ethyl]amino}benzoate (0.15 g, 0.675 mmol) in CH2Cl2 (2 ml) and the mixture was stirred at room temperature for overnight. The mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate, dried over Na2SO4 filtered and the solvent was evaporated under reduced pressure. The product was purified by reversed phase HPLC (20-100% MeCN/H2O with 0.05% TFA). MS cal'd 301 (MH+), exp 301(MH+).

reactant | Methanesulfonyl chloride | 1.350 mmol, 0.105 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.024 mmol, 0.282 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 4-{[2-(dimethylamino)ethyl]amino}benzoate | 0.675 mmol, 0.15 g | CN(CCNC1=CC=C(C(=O)OC)C=C1)C | C12H18N2O2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-[[2-(dimethylamino)ethyl](methylsulfonyl)amino]benzoate | CN(CCN(C1=CC=C(C(=O)OC)C=C1)S(=O)(=O)C)C | C13H20N2O4S
